US09126998B2
rac-N-(2-Amino-2-methylpentyl)-6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide
191 mg (0.62 mmol) of TBTU and 0.25 ml (2.27 mmol) of 4-methylmorpholine and 72 mg (0.62 mmol) of rac-2-methylpentane-1,2-diamine were added to 200 mg (0.57 mmol) of 6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid Example 16A in DMF (2.0 ml), and the reaction mixture was stirred at RT overnight. 36 mg (0.31 mmol) of rac-2-methylpentane-1,2-diamine and 0.06 ml (0.57 mmol) of 4-methylmorpholine were then added, and stirring was continued at RT overnight. The mixture was diluted with water/TFA and purified by preparative RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). The product fraction was concentrated. Saturated aqueous sodium bicarbonate solution was added to the residue, and the mixture was extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered off and concentrated. The residue was purified by silica gel chromatography (dichloromethane/methanol: 10:1, then dichloromethane/2N ammonia in methanol 20:1). This gave 189 mg (73% of theory, purity 99%) of the target compound.

reactant | TBTU | 0.62 mmol, 191 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 2.27 mmol, 0.25 ml | CN1CCOCC1 | C5H11NO
reactant | rac-2-methylpentane-1,2-diamine | 0.62 mmol, 72 mg | CC(CN)(CCC)N | C6H16N2
reactant | 6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.57 mmol, 200 mg | ClC=1C=C(C=2N(C1)C(=C(N2)C)C(=O)O)OCC2=C(C=CC=C2F)F | C16H11ClF2N2O3
reactant | rac-2-methylpentane-1,2-diamine | 0.31 mmol, 36 mg | CC(CN)(CCC)N | C6H16N2
reactant | 4-methylmorpholine | 0.57 mmol, 0.06 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | water TFA | O.C(=O)(C(F)(F)F)O
product | rac-N-(2-Amino-2-methylpentyl)-6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)Cl)C)(CCC)C | C22H25ClF2N4O2
